US05489593
3,5-Dichloro-4-(1-methylethylamino)pyridazine
A solution of 3,4,5-trichloropyridazine (9.2 g) and isopropylamine (16.5 g) in toluene (25 ml) is refluxed for 18 hr. Excess isopropylamine is removed by atmospheric distillation. The residual solution is cooled and diluted with dichloromethane and aqueous sodium hydroxide solution (5%). The phases are separated. The organic phase is washed with water and then with saline. The organic phase is dried over sodium sulfate and concentrated under reduced pressure to give a liquid which contains a mixture of isomeric products. The isomers are separated by flash chromatography on silica gel eluting with ether/hexane (30/70). The appropriate fractions are pooled and concentrated to give the desired isomer, NMR (CDCl3) 1.33, 4.59, 4.87 and 8.60 δ; CMR (CDCl3) 24.2, 46.4, 117.1, 139.3, 145.5 and 151.3 δ.

reactant | 3,4,5-trichloropyridazine | 9.2 g | ClC=1N=NC=C(C1Cl)Cl | C4HCl3N2
reactant | isopropylamine | 16.5 g | C(C)(C)N | C3H9N
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 3,5-Dichloro-4-(1-methylethylamino)pyridazine | ClC=1N=NC=C(C1NC(C)C)Cl | C7H9Cl2N3
